US04011230
2,4-Dichloro-β-nitrostyrene (6.6 grams, 0.030 mole) was added to a stirred solution of dimethylammonium dimethyldithiocarbamate (5.1 grams, 0.030 mole) and carbon disulfide (1.8 ml., 0.030 mole) in methanol (30 ml.). The temperature of the resulting reaction was 16°-32° C. After 2 hours at room temperature, the precipitated product was filtered off, washed with cold methanol, and dried in air. Recrystallization without heating was accomplished by dissolving the sample in acetone and then adding absolute ethanol to give 2,4-dichloro-α-(nitromethyl)-benzyl dimethyldithiocarbamate melting at 127° C.-128° C.

reactant | 2,4-Dichloro-β-nitrostyrene | 0.030 mole, 6.6 grams | ClC1=C(C=C[N+](=O)[O-])C=CC(=C1)Cl | C8H5Cl2NO2
reactant | dimethylammonium dimethyldithiocarbamate | 0.030 mole, 5.1 grams | CN(C([S-])=S)C.C[NH2+]C
reactant | carbon disulfide | 0.030 mole, 1.8 ml | C(=S)=S | CS2
solvent | methanol | 30 ml | CO | CH4O
product | 2,4-dichloro-α-(nitromethyl)-benzyl dimethyldithiocarbamate | CN(C(SC(C1=C(C=C(C=C1)Cl)Cl)C[N+](=O)[O-])=S)C | C11H12Cl2N2O2S2
